US05965574
1-[2-(N-Phenylsulfonyl-6-methyl-indolyl]-3-[1-(phenylmethyl)-4-piperidinyl]-2-propen-1-ol
A solution of N-phenylsulfonyl-6-methyl indole (1.18 g, 4.34 mmol) in 30 ml of dry THF was cooled to -78° C. and treated with 3.5 ml (5.2 mmol) of 1.5 M lithium diisopropylamide in cyclohexane at -78° C. After stirring at -78° C. for 1 hour, a solution of 3-[1-(phenylmethyl)-4-piperidinyl]-2-propenal (1.0 g, 4.36 mmol) in 5 ml of dry THF was added at -78° C. and stirred at that temperature for 40 minutes. The mixture was quenched with water and extracted with chloroform. The organic layer was dried and concentrated to give 2.23 g of an orange oil. The oil was purified through silica gel column chromatography using 2% methanol in chloroform as eluent to give 1.0 g of the title compound as a yellow oil.

reactant | N-phenylsulfonyl-6-methyl indole | 4.34 mmol, 1.18 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)C | C15H13NO2S
reactant | lithium diisopropylamide | 5.2 mmol, 1.5 M, 3.5 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-[1-(phenylmethyl)-4-piperidinyl]-2-propenal | 4.36 mmol, 1.0 g | C1(=CC=CC=C1)CN1CCC(CC1)C=CC=O | C15H19NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-(N-Phenylsulfonyl-6-methyl-indolyl]-3-[1-(phenylmethyl)-4-piperidinyl]-2-propen-1-ol | 2.23 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=C(C=C12)C)C(CO)=CC1CCN(CC1)CC1=CC=CC=C1 | C30H32N2O3S
